US05405854
A solution of 23.3 g of rac-2-(aminomethyl)-4-benzylmorpholine in 250ml of dioxane is treated with 27.1 g of di-t-butyl dicarbonate in 250 ml of dioxane. After stirring, the solvent is evaporated and the residue is chromatographed on silica gel with methylene chloride-ethyl acetate 3:1. The product is recrystallized from methylene chloride-hexane. There are obtained 25.6 g of t-butyl rac-[(4-benzyl-2-morpholinyl)methyl]-carbamate.

reactant | rac-2-(aminomethyl)-4-benzylmorpholine | 23.3 g | NCC1CN(CCO1)CC1=CC=CC=C1 | C12H18N2O
reactant | di-t-butyl dicarbonate | 27.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 250ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 250 ml | O1CCOCC1 | C4H8O2
product | t-butyl rac-[(4-benzyl-2-morpholinyl)methyl]-carbamate | 25.6 g | C(C1=CC=CC=C1)N1CC(OCC1)CNC(OC(C)(C)C)=O | C17H26N2O3
